US08084621B2
P2O5 7.1 g was added into polyphosphoric acid 142 g, then after the mixture was stirred for 30 minutes at 70° C., 4-(4-(ethoxycarbonyl)-5-methyl-1H-pyrrol-3-yl)butanoic acid (S2) 6.3 g (0.026 mol) was added and stirred for 48 hours. The mixture was poured into the ice water and adjusted pH to 8 with saturated sodium carbonate solution, then extracted with ethyl acetate. The organic phase was washed with water and saturated sodium chloride solution, then dried over anhydrous Na2SO4 and concentrated to saturated solutions in vacuo. The residue was colded to −5° C., then the white solid was collected by filtration and dried in vacuum to give 3.5 g (61%) ethyl 2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylate (S3).

reactant | P2O5 | 7.1 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 4-(4-(ethoxycarbonyl)-5-methyl-1H-pyrrol-3-yl)butanoic acid | 0.026 mol, 6.3 g | C(C)OC(=O)C=1C(=CNC1C)CCCC(=O)O | C12H17NO4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | ethyl 2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylate | 3.5 g, 61% | CC=1NC=2C(CCCC2C1C(=O)OCC)=O | C12H15NO3
